US07829580B2
To a solution of triphenylphosphine (6.39 g) in tetrahydrofuran (100 ml) was added a solution of diisopropyl azodicarboxylate in toluene (13.11 ml) under ice-cooling, and the resulting mixture was stirred at the same temperature for 1 hour. Subsequently, to the reaction mixture was added dropwise a solution of (E)-3-benzylidene-1-(triphenylmethyl)piperidin-4-ol (5.26 g) and thioacetic acid (1.74 ml) in tetrahydrofuran (50 ml) at the same temperature, and the resulting mixture was furthermore stirred at room temperature for 2.5 hours. The reaction mixture was evaporated in vacuo, and the residue was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate and hexane (2:23) as the eluent to afford (E)-4-(acetylsulfanyl)-3-benzylidene-1-(triphenylmethyl)piperidine (containing impurities) as a pale yellow amorphous solid.

reactant | triphenylphosphine | 6.39 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | (E)-3-benzylidene-1-(triphenylmethyl)piperidin-4-ol | 5.26 g | C(/C1=CC=CC=C1)=C\1/CN(CCC1O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H29NO
reactant | thioacetic acid | 1.74 ml | C(C)(=S)O | C2H4OS
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | toluene | 13.11 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (E)-4-(acetylsulfanyl)-3-benzylidene-1-(triphenylmethyl)piperidine | C(C)(=O)SC1/C(/CN(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=C/C1=CC=CC=C1 | C33H31NOS
